US04587356
A 10 g quantity of morpholinium N-(3-hydroxy-4-methoxycinnamoyl)anthranilate is dissolved in a mixture of 80 ml of water and 60 ml of methyl alcohol with heating, and the resultant solution is added dropwise to 85 ml of diluted hydrochloric acid (5 ml of conc. hydrochloric acid and 80 ml of water) with stirring. The precipitated crystals which form are collected by filtration, washed with water and then dried at 90°-100° C. under reduced pressure for 3 hours to yield N-(3-hydroxy-4-methoxycinnamoyl)anthranilic acid (74.0% yield). The compound is confirmed as identical to that obtained in Example IV.

reactant | morpholinium N-(3-hydroxy-4-methoxycinnamoyl)anthranilate | OC=1C=C(C=CC(=O)NC=2C(C(=O)[O-])=CC=CC2)C=CC1OC.[NH2+]1CCOCC1
reactant | hydrochloric acid | 85 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | methyl alcohol | 60 ml | CO | CH4O
product | N-(3-hydroxy-4-methoxycinnamoyl)anthranilic acid | 74.0% yield | OC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C17H15NO5
